US07655669B2
4-(4-Methyl-1-piperazinyl)-3-(trifluoromethyl)-benzoic acid
A mixture consisting of 30 mL dioxane, 15 mL water and 11.25 mL of 2M aqueous sodium hydroxide solution is added to 4-(4-methyl-1-piperazinyl)-3-(trifluoromethyl)-benzonitrile and the reaction mixture is shaken for 16 hours at 95° C. After cooling, the mixture is evaporated. The resulting residue is treated with water, the pH adjusted to ˜5-6 with 1M hydrochloric acid and the solvent evaporated off under reduced pressure. The residue is treated with hot methanol, the insoluble salt filtered off and the filtrate evaporated yielding the crude title compound which is used for the next step without further purification.

reactant | dioxane | 30 mL | O1CCOCC1 | C4H8O2
reactant | sodium hydroxide | 2M, 11.25 mL | [OH-].[Na+]
reactant | 4-(4-methyl-1-piperazinyl)-3-(trifluoromethyl)-benzonitrile | CN1CCN(CC1)C1=C(C=C(C#N)C=C1)C(F)(F)F | C13H14F3N3
solvent | water | 15 mL | O | H2O
product | 4-(4-Methyl-1-piperazinyl)-3-(trifluoromethyl)-benzoic acid | CN1CCN(CC1)C1=C(C=C(C(=O)O)C=C1)C(F)(F)F | C13H15F3N2O2
